US06498172B1
7-(4-Pyrazin-2-yl-benzylamino)-heptanoic acid methyl ester
The title compound of Step A was prepared from 7-amino-heptanoic acid methyl ester hydrochloride, of Preparation 1, and 4-pyrazin-2-yl-benzaldehyde, of Preparation 27, using the method described in Example 1, Step A. 1H NMR (400 MHz, CDCl3) δ 9.01 (d, 1H), 8.61 (m, 1H), 8.48 (d, 1H), 7.97 (d, 2H), 7.46 (d, 2H), 3.85 (s, 2H), 3.65 (s, 3H), 2.63 (t, 2H), 2.29 (t, 2H), 1.62 (m, 2H), 1.54 (m, 2H), 1.33 (m, 4H); MS 328 (M+1).

reactant | 7-amino-heptanoic acid methyl ester hydrochloride | Cl.COC(CCCCCCN)=O
reactant | 4-pyrazin-2-yl-benzaldehyde | N1=C(C=NC=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
product | 7-(4-Pyrazin-2-yl-benzylamino)-heptanoic acid methyl ester | COC(CCCCCCNCC1=CC=C(C=C1)C1=NC=CN=C1)=O | C19H25N3O2
